US07214802B2
N-(5-tert-Butyl-3-methanesulfonylamino-2-methoxy-phenyl)-3-[4-(6-cyclopropylamino-pyridin-3-yl)-[1,2,3]triazol-1-yl]-4-methyl-benzamide
Example 26 was prepared from 3-azido-N-(5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenyl)-4-methyl-benzamide and cyclopropyl-(5-ethynyl-pyridin-2-yl)-amine in the same manner as Example 15. ESI MS m/z 590 [C30H35N7O4S+H]+.

reactant | 3-azido-N-(5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenyl)-4-methyl-benzamide | N(=[N+]=[N-])C=1C=C(C(=O)NC2=C(C(=CC(=C2)C(C)(C)C)NS(=O)(=O)C)OC)C=CC1C | C20H25N5O4S
reactant | cyclopropyl-(5-ethynyl-pyridin-2-yl)-amine | C1(CC1)NC1=NC=C(C=C1)C#C | C10H10N2
product | N-(5-tert-Butyl-3-methanesulfonylamino-2-methoxy-phenyl)-3-[4-(6-cyclopropylamino-pyridin-3-yl)-[1,2,3]triazol-1-yl]-4-methyl-benzamide | C(C)(C)(C)C=1C=C(C(=C(C1)NC(C1=CC(=C(C=C1)C)N1N=NC(=C1)C=1C=NC(=CC1)NC1CC1)=O)OC)NS(=O)(=O)C | C30H35N7O4S
